US04007173
3-(1,2,3-Triazol-4-ylthiomethyl)-7-[α-amino-p-(1-methyl-ureido)phenylacetamido]-3-cephem-4-carboxylic acid
When α-t-butoxycarbonylamino-p-(1-methylureido)phenylacetic acid is reacted with 7-ACA and 4-mercapto-1,2,3-triazole according to the procedure of Example 5, the title compound is obtained.

reactant | α-t-butoxycarbonylamino-p-(1-methylureido)phenylacetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)N(C(=O)N)C | C15H21N3O5
reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 4-mercapto-1,2,3-triazole | SC=1N=NNC1 | C2H3N3S
product | 3-(1,2,3-Triazol-4-ylthiomethyl)-7-[α-amino-p-(1-methyl-ureido)phenylacetamido]-3-cephem-4-carboxylic acid | N1N=NC(=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(N)C2=CC=C(C=C2)N(C(=O)N)C)=O)=O | C20H22N8O5S2
